US08183289B2
To a stirred solution of the 4-fluoro-3-(trifluoromethyl)benzaldehyde (177 μL, 1.30 mmol) and N-(4-chlorophenethyl)-4-hydroxybenzamide (359 mg, 1.30 mmol) in DMSO (3 ml) was added K2CO3 (270 mg, 1.95 mmol). The reaction was stirred at 95° C. for 2 hours and then directly purified by silica gel chromatography to give N-(4-chlorophenethyl)-4-(4-formyl-2-(trifluoromethyl)phenoxy)benzamide (0.541 g).

reactant | 4-fluoro-3-(trifluoromethyl)benzaldehyde | 1.30 mmol, 177 μL | FC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4F4O
reactant | N-(4-chlorophenethyl)-4-hydroxybenzamide | 1.30 mmol, 359 mg | ClC1=CC=C(CCNC(C2=CC=C(C=C2)O)=O)C=C1 | C15H14ClNO2
reactant | K2CO3 | 1.95 mmol, 270 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
product | N-(4-chlorophenethyl)-4-(4-formyl-2-(trifluoromethyl)phenoxy)benzamide | 0.541 g | ClC1=CC=C(CCNC(C2=CC=C(C=C2)OC2=C(C=C(C=C2)C=O)C(F)(F)F)=O)C=C1 | C23H17ClF3NO3
